US06746728B1
(6-1) Synthesis of 6-propyl-4,4a,5,6,7,8-hexahydro-3H-naphthalen-2-one
212 g of 4-propylcyclohexanone and 200 ml of pyrrolidine was dissolved in 600 ml of toluene, and the mixture was heated with stirring for 3 hours, and any azeotropically distilled water was removed. Excess pyrrolidine was then removed by azeotropic distillation with toluene, to obtain 1-(4-propylcyclohexa-1-en-1-yl)-pyrrolidine. The crude product was cooled, as is, to room temperature, a further 800 ml of toluene was added, the mixture was cooled in a water bath, and 120 ml of methyl vinyl ketone was added dropwise over a period of 1 hour at a temperature of 25° C. or lower. Following completion of the addition, the mixture was immediately heated and refluxed for 20 hours. The solution was then cooled to room temperature, a buffer solution of pH 5 prepared from 63 g of sodium acetate, 120 ml of acetic acid and 140 ml of water was added, and the reflux was continued for a further 4 hours. After the solution had been cooled to room temperature, the organic layer was separated and washed with water and a saturated aqueous solution of sodium chloride. The organic layer was then dried over anhydrous sodium sulfate, and the solvent removed by evaporation to obtain 320 g of a crude product of 6-propyl-4,4a,5,6,7,8-hexahydro-3H-naphthalen-2-one.

reactant | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
reactant | methyl vinyl ketone | 120 ml | C(=C)C(=O)C | C4H6O
reactant | sodium acetate | 63 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | water | 140 ml | O | H2O
product | 6-propyl-4,4a,5,6,7,8-hexahydro-3H-naphthalen-2-one | 320 g | C(CC)C1CC2CCC(C=C2CC1)=O | C13H20O
